US09284331B2
Step 2: methyl 2-(5-iodo-3,4-dihydroisoquinolin-1-yl)propanoate.
A solution of methyl 3-((2-iodophenethyl)amino)-2-methyl-3-oxopropanoate (9.9 g, 27.4 mmol) in DCM (120 mL) was treated with oxalyl chloride (2.59 mL, 30.2 mmol) and the mixture was stirred at RT for 30 min. FeCl3 (5.34 g, 32.9 mmol) was then added portionwise at 0° C. and the resulting brown mixture was stirred at RT for 4 h. A 2N aqueous solution of HCl (35 mL) was then added and the mixture was stirred at RT for another 2 h. The mixture was then diluted with H2O and extracted with DCM. The combined org. phases were then dried over Na2SO4, filtered and concentrated in vacuo. The brown residue obtained was taken up in a 19:1 mixture of MeOH/H2SO4 (120 mL) and stirred at reflux for 3 h. The mixture was then concentrated in vacuo and the brown reside obtained was taken up in H2O. The mixture was rendered basic with ammonia and then extracted with AcOEt. The combined org. phases were dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2, cHex/AcOEt 100:0 to 70:30) gave the title compound (1.15 g) as yellow oil. UPLC-MS: MS 344.1 (M+H+); UPLC rt 0.96 min.

reactant | methyl 3-((2-iodophenethyl)amino)-2-methyl-3-oxopropanoate | 27.4 mmol, 9.9 g | IC1=C(CCNC(C(C(=O)OC)C)=O)C=CC=C1 | C13H16INO3
reactant | oxalyl chloride | 30.2 mmol, 2.59 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | HCl | 35 mL | Cl | ClH
reactant | MeOH H2SO4 | 120 mL | CO.OS(=O)(=O)O
reactant | ammonia | N | H3N
solvent | DCM | 120 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | methyl 2-(5-iodo-3,4-dihydroisoquinolin-1-yl)propanoate | 1.15 g | IC1=C2CCN=C(C2=CC=C1)C(C(=O)OC)C | C13H14INO2
